US06211215B1
In substantially the same manner as in Reference Example 85, 4-(3-benzyloxyphenyl)butanol was allowed to react with methanesulfonylchloride to give 4-(3-benzyloxyphenyl)butyl methanesulfonate. The yield was quantative. Oily substance.

reactant | 4-(3-benzyloxyphenyl)butanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCCO | C17H20O2
reactant | methanesulfonylchloride | CS(=O)(=O)Cl | CH3ClO2S
product | 4-(3-benzyloxyphenyl)butyl methanesulfonate | CS(=O)(=O)OCCCCC1=CC(=CC=C1)OCC1=CC=CC=C1 | C18H22O4S
